US05100460
In a manner identical with Example 57, 2,3'-dibromoacetophenone (7.8 g, 0.028 mole) is treated with 1 equivalent of the magnesium anion of methyl phenyl sulphone in THF at -70° C. The mixture is stirred for 2 h at -70° C., acetic acid (7 cc) is then added and the mixture is poured into water (100 g). It is reextracted with ether (3×100 cc), is washed with brine (2×100 cc) and is dried over MgSO4. The crude is precipitated with ether (50 cc) with warming and recrystallized from isopropyl ether to give white crystals of 1-bromo-2-[3'-bromophenyl]-3-phenylsulphonyl-2-propanol (2.4 g, 20%). Mp=132° C.

reactant | 2,3'-dibromoacetophenone | 0.028 mole, 7.8 g | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
reactant | methyl phenyl sulphone | C1(=CC=CC=C1)S(=O)(=O)C | C7H8O2S
reactant | acetic acid | 7 cc | C(C)(=O)O | C2H4O2
reactant | water | 100 g | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 100 cc | CCOCC | C4H10O
product | 1-bromo-2-[3'-bromophenyl]-3-phenylsulphonyl-2-propanol | 2.4 g, 20% | BrCC(CS(=O)(=O)C1=CC=CC=C1)(O)C1=CC(=CC=C1)Br | C15H14Br2O3S
